US06821980B1
(7i) 5-[3′-Amino-6-ethoxy-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-ylmethyl]-pyrimidine-2,4-diamine (Method β)
3′-Amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-ol (527 mg; 1.5 mmol) is suspended in acetonitrile (60 ml; dried over a molecular sieve), potassium carbonate (621 mg; 4.5 mmol) is added and the mixture is heated to a bath temperature of 100° C. 2,2,2-Trifluoroethyl methanesulphonate (0.353 ml; 3.0 mmol) is added and the mixture is boiled under reflux for 3 hours. After this period of time, potassium carbonate (414 mg; 3 mmol) and 2,2,2-trifluoroethyl methanesulphonate (0.353 ml; 3.0 mmol) are again added and the mixture is stirred under reflux for a further 2 hours. The same procedure is repeated four more times at intervals of two hours. The suspension is then filtered with suction and the filtrate is concentrated. The residue is chromatographed over silica gel (120 g) with methylene chloride/methanol/NH4OH (1/1 mixture of 90/10/1 and 19/1/0.05).

reactant | 3′-Amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-ol | 1.5 mmol, 527 mg | NC=1C=C(C=CC1)C=1C(=CC(=CC1OCC)CC=1C(=NC(=NC1)N)N)O | C19H21N5O2
reactant | potassium carbonate | 4.5 mmol, 621 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-Trifluoroethyl methanesulphonate | 3.0 mmol, 0.353 ml | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethyl methanesulphonate | 3.0 mmol, 0.353 ml | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-[3′-Amino-6-ethoxy-2-(2,2,2-trifluoro-ethoxy)-biphenyl-4-ylmethyl]-pyrimidine-2,4-diamine | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OCC(F)(F)F | C21H22F3N5O2
